US06933295B2
3-({[tert-Butyl(dimethyl)silyl]oxy}methyl)benzylamine
At room temperature, a hydrazine solution (35% strength in water, 0.6 ml, 6.6 mmol) is added to a solution of 2-[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)benzyl]-1H-isoindole-1,3(2H)-dione (1.7 g, 4.4 mmol) in ethanol (44 ml), the mixture is stirred at room temperature for 15 h and water is added. After addition of dichloromethane and phase separation, the aqueous phase is extracted with dichloromethane. The combined organic phases are dried (sodium sulfate), filtered and concentrated under reduced pressure. The desired product is used without further purification for the next reaction.

reactant | hydrazine | 6.6 mmol, 0.6 ml | NN | H4N2
reactant | 2-[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)benzyl]-1H-isoindole-1,3(2H)-dione | 4.4 mmol, 1.7 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C22H27NO3Si
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 44 ml | C(C)O | C2H6O
product | 3-({[tert-Butyl(dimethyl)silyl]oxy}methyl)benzylamine | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CN)C=CC1 | C14H25NOSi
